US06380387B1
To a suspension of 4-(1,3-diethyl-6-methyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester hydrochloride salt (0.76 mmol, 0.3 g) and 2,6-dichlorobenzoyl chloride (0.84 mmol, 0.175 g) in dichloromethane (2 mL) was added diisopropylethylamine (3.03 mmol, 0.53 mL) at room temperature. After 5 min, everything went into solution and the clear yellow solution was stirred for 15 h at room temperature. The resulting brown solution was diluted with dichloromethane (25 mL). The dichloromethane layer was washed successively with 1N hydrochloric acid (2×25 mL), saturated sodium bicarbonate solution (25 mL), and brine solution (25 mL) and was dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the solvent gave the crude product which was purified by silica gel chromatography using a Biotage (40s) column to afford 0.40 g (99% yield) of N-[(2,6-dichlorophenyl)carbonyl]-4-(1,3-diethyl-6-methyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester as an amorphous white solid. ES-HRMS m/e calcd for C26H27Cl2N3O5 (M+Na) 554.1221, found 554.1229.

reactant | 4-(1,3-diethyl-6-methyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester hydrochloride salt | 0.76 mmol, 0.3 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)CC)=O)CC)=O)=O
reactant | 2,6-dichlorobenzoyl chloride | 0.84 mmol, 0.175 g | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | diisopropylethylamine | 3.03 mmol, 0.53 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-[(2,6-dichlorophenyl)carbonyl]-4-(1,3-diethyl-6-methyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester | 0.40 g, 99% yield | COC([C@@H](NC(=O)C1=C(C=CC=C1Cl)Cl)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)CC)=O)CC)=O)=O | C26H27Cl2N3O5
